US06503998B2
Synthesis of 4-[(6-acetoxyhexyl)sulfonyl]benzyl Bromide
2.0 g of 4-[(6-acetoxyhexyl)sulfonyl]toluene, 1.3 g of N-bromo-succinimide (NBS), 0.015 g of benzoyl peroxide (BPO) , and 20 mL of carbon tetrafluoride were added to a 250 mL round bottomed flask and heated with reflux for 12 hours in nitrogen. The mixture was allowed to cool down and then filtered. The filtrate was washed by deionized water repeatedly. The organic fraction was dried over anhydrous magnesium sulfate and then concentrated by a rotary evaporator. The concentrate was further purified by re-crystallization to produce a white solid. The yield was 71% with the following structure.

reactant | 4-[(6-acetoxyhexyl)sulfonyl]toluene | 2.0 g | C(C)(=O)OCCCCCCS(=O)(=O)C1=CC=C(C=C1)C | C15H22O4S
reactant | N-bromo-succinimide | 1.3 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 0.015 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrafluoride | 20 mL | C(F)(F)(F)F | CF4
product | 4-[(6-acetoxyhexyl)sulfonyl]benzyl Bromide | yield was 71% | C(C)(=O)OCCCCCCS(=O)(=O)C1=CC=C(CBr)C=C1 | C15H21BrO4S
